US07550607B2
Preparation of (1S,4S,5R,6R) and (1R,4S,5R,6S)-4-(tert-butyl-dimethylsilanyloxymethyl)-3,7-dioxa-bicyclo[4.1.0]heptan-5-ol
To a 0° C., stirred solution of cis-2-(tert-butyldimethylsilanyloxymethyl)-3,6-dihydro-2H-pyran-3-ol (0.200 g, 0.91 mmol) in CH2Cl2 (15 ml) was added m-CPBA (75%, 0.46 g, 2.68 mmol) and the mixture was stirred for 1 H at 0° C. Dimethyl sulfide (0.01 ml) was added and stirring was continued for 10 min. The solvent was removed in vacuo and the crude product was diluted with EtOAc (30 ml). The resulting solution was washed successively with saturated aqueous Na2CO3 (10 ml), water (10 ml×2) and brine (10 ml). The organic phase was dried over anhydrous Na2SO4. The solvent was removed in vacuo and the crude product was purified by flash chromatography (25-40% EtOAc in hexane).

reactant | cis-2-(tert-butyldimethylsilanyloxymethyl)-3,6-dihydro-2H-pyran-3-ol | 0.91 mmol, 0.200 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1OCC=C[C@@H]1O | C12H24O3Si
reactant | m-CPBA | 2.68 mmol, 0.46 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Dimethyl sulfide | 0.01 ml | CSC | C2H6S
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (1R,4S,5R,6S)-4-(tert-butyl-dimethylsilanyloxymethyl)-3,7-dioxa-bicyclo[4.1.0]heptan-5-ol | [Si](C)(C)(C(C)(C)C)OC[C@@H]1OC[C@H]2O[C@H]2[C@@H]1O | C12H24O4Si
